US05424454
Moreover, by following the procedure described in Example 4 but using ammonium acetate to make the acetylimine of N-pyruvyl-L-proline, a 65% diastereomeric excess of L-alanyl-L-proline was obtained.

reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
reactant | N-pyruvyl-L-proline | C(C(=O)C)(=O)N1[C@H](C(=O)O)CCC1 | C8H11NO4
product | L-alanyl-L-proline | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
